* TestBench: analogcoder_pro_p01_amplifier_full_testbench
* Circuit: analogcoder_pro_p01_amplifier
* Category: full
*
.OPTIONS POST=2 PROBE

* AnalogCoder-Pro p1: a single-stage common-source amplifier with resistive load R
* Source: analogcoder\AnalogCoderPro-master\sample_design\p1\p1.py
* AnalogCoder-Pro type: Amplifier
* Inputs: Vin
* Outputs: Vout

.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.5)

Vdd Vdd 0 5
Vin Vin 0 DC 1.0 AC 1n
Rload Vout Vdd 10k
M1 Vout Vin 0 0 nmos_model W=5e-05 L=1e-06

.OP
.AC DEC 100 1 1G

.TEMP 27.0
.TRAN 1n 50u 0

.END